US07534891B2
According to the procedure described for the synthesis of example 1, (6-(1-isopropyl-piperidin-4-yloxy)-quinoline-2-carboxylic acid isobutyl-amide was synthesized from 6-(1-isopropyl-piperidin-4-yloxy)-quinoline-2-carboxylic acid 1:1 hydrochloride, isobutylamine (commercially available) and 1,1′-carbonyl-diimidazole. MS (m/e): 370.6 (M+H).

reactant | 6-(1-isopropyl-piperidin-4-yloxy)-quinoline-2-carboxylic acid | C(C)(C)N1CCC(CC1)OC=1C=C2C=CC(=NC2=CC1)C(=O)O | C18H22N2O3
reactant | hydrochloride | Cl | ClH
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | 1,1′-carbonyl-diimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 6-(1-isopropyl-piperidin-4-yloxy)-quinoline-2-carboxylic acid isobutyl-amide | C(C(C)C)NC(=O)C1=NC2=CC=C(C=C2C=C1)OC1CCN(CC1)C(C)C | C22H31N3O2
